US05360813
2 -(2,4-Dichlorophenyl)-3-(4 -methoxybenzenesulfonamido)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol
Following the procedure described in the preceeding examples but using 2-(2,4-dichlorophenyl)-3-amino-1-(1H-1,2,4-triazol-1-yl)propan-2-ol and ρ-methoxybenzenesulfonylchloride, the title compound was obtained in a similar yield:

reactant | 2-(2,4-dichlorophenyl)-3-amino-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(CN)O | C11H12Cl2N4O
reactant | ρ-methoxybenzenesulfonylchloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | 2 -(2,4-Dichlorophenyl)-3-(4 -methoxybenzenesulfonamido)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(CNS(=O)(=O)C1=CC=C(C=C1)OC)O | C18H18Cl2N4O4S
